US07053212B2
Step A: Cyclohexanecarboxylic acid [2-chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenyl]-amide
To a solution of cyclohexanecarbonyl chloride (990 mg, 6.75 mmol) in methylene chloride (30 mL) was added a mixture of (2-chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (1.94 g, 4.5 mmol) and triethylamine (1.3 mL, 9.0 mmol) in methylene chloride (15 mL) dropwise. The reaction mixture was stirred at room temperature for 24 hr. The reaction mixture was quenched with saturated aqueous sodium bicarbonate solution and the aqueous solution was washed with methylene chloride. The organic solution was dried (sodium sulfate), filtered and concentrated in vacuo. The crude product was purified by Biotage® chromatography using 5% methanol/methylene chloride to afford the title compound of Step A as an oil (2.12 g). MS 541.3 (M+1)+

reactant | cyclohexanecarbonyl chloride | 6.75 mmol, 990 mg | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | (2-chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | 4.5 mmol, 1.94 g | ClC1=C(CNC2=CC=C(C=C2)OCCN2CCCC2)C=CC(=C1)OC1OCCCC1 | C24H31ClN2O3
reactant | triethylamine | 9.0 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | Cyclohexanecarboxylic acid [2-chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenyl]-amide | 2.12 g | ClC1=C(CN(C(=O)C2CCCCC2)C2=CC=C(C=C2)OCCN2CCCC2)C=CC(=C1)OC1OCCCC1 | C31H41ClN2O4
